US08633235B2
Step F. 1-(cyclohexylmethyl)-2-(1,1-dimethylpropyl)-1H-benzimidazol-5-amine
N-[1-(cyclohexylmethyl)-2-(1,1-dimethylpropyl)-1H-benzimidazol-5-yl]acetamide (110.0 mg, 0.32 mmol) was dissolved in EtOH (3 mL) and 2N HCl (2 mL) in a Teflon-capped test tube. The vessel was irradiated by microvwave for 45 min. at 120° C. Upon evaporation of the solvent, the title compound was obtained as a grey white solid (117.8 mg, 100%). 1H NMR (400 MHz, CD3OD): δ 0.87 (t, J=7.52 Hz, 3H), 1.27 (m, 5H), 1.66 (m, 3H), 1.71 (s, 6H), 1.78 (m, 2H), 2.05 (q, J=7.42 Hz, 2H), 2.13 (m, 1H), 4.53 (d, J=7.62 Hz, 2H), 7.66 (dd, J=8.79, 1.56 Hz, 1H), 7.97 (d, J=1.76 Hz, 1H), 8.17 (d, J=8.79 Hz, 1H); MS (ESI) (M+H)+: 300.05.

reactant | N-[1-(cyclohexylmethyl)-2-(1,1-dimethylpropyl)-1H-benzimidazol-5-yl]acetamide | 0.32 mmol, 110.0 mg | C1(CCCCC1)CN1C(=NC2=C1C=CC(=C2)NC(C)=O)C(CC)(C)C | C21H31N3O
reactant | HCl | 2N, 2 mL | Cl | ClH
solvent | EtOH | 3 mL | CCO | C2H6O
product | 1-(cyclohexylmethyl)-2-(1,1-dimethylpropyl)-1H-benzimidazol-5-amine | C1(CCCCC1)CN1C(=NC2=C1C=CC(=C2)N)C(CC)(C)C | C19H29N3
